US08067448B2
(R)—N′-(3-(tert-Butyldimethylsilyloxy)-2-(3-chloro-4-cyano-2-methylphenylamino)propanoyl)-4-cyanobenzohydrazide
Imidazole (1.3 g, 19.1 mol) and TBDMS-Cl (1.73 g, 11.46 mmol) were added sequentially to a pre-cooled (0° C.) solution of (R)—N′-(2-(3-chloro-4-cyano-2-methylphenylamino)-3-hydroxypropanoyl)-4-cyanobenzohydrazide (1.52 g, 3.82 mmol) in DMF (145 mL). The reaction mixture was allowed to warm to room temperature and stirred for 20 h, whereupon the solution was poured into H2O (200 mL). The white precipitate was filtered, washed with H2O (35 mL) and taken up in CH2Cl2 (300 mL). This organic layer was washed with brine (1×160 mL), dried (Na2SO4), filtered and concentrated to provide the title compound (1.52 g, 78%). 1H NMR (400 MHz, acetone-d6, δ in ppm) 9.6 (br s, 1H), 7.97 (d, J=8.0 Hz, 2H), 7.80 (d, J=9 Hz, 2H), 7.41 (d, J=8 Hz, 1H), 6.63 (d, J=8 Hz, 3H), 5.45 (d, J=8 Hz, 1H), 4.29-4.23 (m, 1H), 4.05-4.02 (m, 2H), 2.21 (s, 3H), 0.79 (s, 9H), 0.01 (s, 6H).

reactant | Imidazole | 19.1 mol, 1.3 g | N1C=NC=C1 | C3H4N2
reactant | TBDMS-Cl | 11.46 mmol, 1.73 g | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | (R)—N′-(2-(3-chloro-4-cyano-2-methylphenylamino)-3-hydroxypropanoyl)-4-cyanobenzohydrazide | 3.82 mmol, 1.52 g | ClC=1C(=C(C=CC1C#N)N[C@@H](C(=O)NNC(C1=CC=C(C=C1)C#N)=O)CO)C | C19H16ClN5O3
reactant | H2O | 200 mL | O | H2O
solvent | DMF | 145 mL | CN(C)C=O | C3H7NO
product | (R)—N′-(3-(tert-Butyldimethylsilyloxy)-2-(3-chloro-4-cyano-2-methylphenylamino)propanoyl)-4-cyanobenzohydrazide | 1.52 g, 78% | [Si](C)(C)(C(C)(C)C)OC[C@H](C(=O)NNC(C1=CC=C(C=C1)C#N)=O)NC1=C(C(=C(C=C1)C#N)Cl)C | C25H30ClN5O3Si
